US05077409
3-[[3-[[[4-(Hexadecyloxy)phenoxy]acetyl]amino]-phenyl]methyl]-5-methyl-thiazolium bromide
A mixture of 1.9 g of N-[3-(bromomethyl)phenyl]-2-[4-(hexadecyloxy)phenoxy]acetamide and 1.68 g of 5-methyl thiazole in 25 ml of toluene is refluxed under argon for 5.5 hours then concentrated to a residue which is mixed with ether and the solid collected by centrifugation then washed several times with ether. The solid is vacuum dried to give 1.7 g of the desired product as a white solid, m.p. 121°-124° C.

reactant | N-[3-(bromomethyl)phenyl]-2-[4-(hexadecyloxy)phenoxy]acetamide | 1.9 g | BrCC=1C=C(C=CC1)NC(COC1=CC=C(C=C1)OCCCCCCCCCCCCCCCC)=O | C31H46BrNO3
reactant | 5-methyl thiazole | 1.68 g | CC1=CN=CS1 | C4H5NS
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[[3-[[[4-(Hexadecyloxy)phenoxy]acetyl]amino]-phenyl]methyl]-5-methyl-thiazolium bromide | 1.7 g | [Br-].C(CCCCCCCCCCCCCCC)OC1=CC=C(OCC(=O)NC=2C=C(C=CC2)C[N+]2=CSC(=C2)C)C=C1 | InChI=1S/C35H50N2O3S.BrH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-24-39-33-20-22-34(23-21-33)40-28-35(38)36-32-19-17-18-31(25-32)27-37-26-30(2)41-29-37;/h17-23,25-26,29H,3-16,24,27-28H2,1-2H3;1H
